US05312824
In chloroform (20 ml) - methanol (10 ml) was dissolved 2-[(4-difluoromethoxy-3-methyl-2-pyridyl)methylthio]benzimidazole (2.0 g). To the solution was added dropwise, under ice-cooling, a solution of m-chloroperbenzoic acid (MCPBA) (80%, 1.5 g in chloroform (20 ml). The reaction mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate and water, in that order, then dried (MgSO4). The solvent was distilled off. The residual solid was subjected to a silica gel column chromatography. From the portion eluted with ethyl acetate - methanol (100:3, v/v), was obtained 2-[(4-difluoromethoxy-3-methyl-2-pyridyl)methylsulfinyl]benzimidazole (1.5 g, 71%). Recrystallization from ethyl acetate--ether gave colorless needles, m.p. 157°-158° C. (decomp.).

reactant | 2-[(4-difluoromethoxy-3-methyl-2-pyridyl)methylthio]benzimidazole | 2.0 g | FC(OC1=C(C(=NC=C1)CSC=1NC2=C(N1)C=CC=C2)C)F | C15H13F2N3OS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 ml | CO | CH4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[(4-difluoromethoxy-3-methyl-2-pyridyl)methylsulfinyl]benzimidazole | 1.5 g, 71% | FC(OC1=C(C(=NC=C1)CS(=O)C=1NC2=C(N1)C=CC=C2)C)F | C15H13F2N3O2S
